US08080580B2
(4S,5S)-3,4,5-tris-benzyloxy-2-[4-fluoro-3-(4-methoxy-benzyl)-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol (I-5i)
n-Butyl lithium (462 microL, 2.5 M/hexanes, 3.0 equivalents) was added dropwise (1 drop every 5 seconds) to an oxygen degassed solution (placed in a pre dried Biotage™ microwave vial 10-20 mL sealed with its cap and placed under a positive stream of nitrogen gas) of 4-Bromo-1-fluoro-2-(4-methoxy-benzyl)-benzene (341 mg, 3 equivalents) in anhydrous tetrahydrofuran (1.4 mL) at −78° C. under nitrogen. The resulting solution was stirred at this temperature for 1 hour. Then a solution of (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide (I-1g) (300 mg, 0.385 mmol) in anhydrous tetrahydrofuran (0.70 mL) was added dropwise very slowly (1 drop every 5 seconds) and the resulting mixture was stirred at −78° C. for an additional hour before warming to 10° C. over 12 hours (put in a deep Dewar covered with aluminum foil to maintain cold temperature; size of Dewar: external diameter 10 cm, internal diameter 8 cm, height 9 cm). The reaction was diluted with diethyl ether and quenched by the dropwise addition of aqueous 1N hydrochloric acid solution. The resulting biphasic mixture was stirred at room temperature for 15 minutes. The organic phase was separated, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by flash chromatography over silica gel (eluting with a gradient of 10 to 40% ethyl acetate in heptane) to afford the product as a mixture of isomers (199 mg, 55% yield).

reactant | n-Butyl lithium | 2.5 M, 3.0 equivalents | C(CCC)[Li]
reactant | oxygen | O=O | O2
reactant | 4-Bromo-1-fluoro-2-(4-methoxy-benzyl)-benzene | 341 mg, 3 equivalents | BrC1=CC(=C(C=C1)F)CC1=CC=C(C=C1)OC | C14H12BrFO
reactant | (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide | 0.385 mmol, 300 mg | CON(C([C@@H]([C@H]([C@@H](C(COCC1=CC=C(C=C1)OC)(COCC1=CC=C(C=C1)OC)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C46H53NO10
reactant | aluminum | [Al] | Al
reactant | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.70 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4S,5S)-3,4,5-tris-benzyloxy-2-[4-fluoro-3-(4-methoxy-benzyl)-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol | 55% yield | C(C1=CC=CC=C1)OC1C(OC([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)(O)C1=CC(=C(C=C1)F)CC1=CC=C(C=C1)OC | C58H59FO10
